US08623876B2
N-[5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-1,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-N′-(1-methyl-piperidin-4-yl)-terephthalamide (Comp. 238, A72-Z-B1)
To a solution of N-[5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-2,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-terephthalamic acid (0.11 g, 0.22 mmol) N,N-diispropylethylamine (0.12 mL, 0.66 mmol) 1-Methyl-piperidin-4-ylamine (0.04 g, 0.34 mmol) in dry CH2Cl2 (20 mL), O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (0.11 g, 0.34 mmol) was added. The reaction was stirred at room temperature over night, the solvent removed under reduced pressure, the residue dissolved in CH2Cl2 (40 mL) and washed with water (1×20 mL) then with saturated sodium hydrogencarbonate aqueous solution (1×20 mL). The organic phase was dried over sodium sulphate, the solvent evaporated in vacuo and the crude product purified by flash chromatography (CH2Cl2/MeOH/NH3 90/10/1) to afford 0.07 g (yield 55%) of the title compound.

reactant | N-[5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-2,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-terephthalamic acid | 0.22 mmol, 0.11 g | ClC1=C(C(=CC=C1)Cl)NC(=O)N1C(C2=NNC(=C2C1)NC(C1=CC=C(C(=O)O)C=C1)=O)(C)C | C22H19Cl2N5O4
reactant | 1-Methyl-piperidin-4-ylamine | 0.66 mmol, 0.12 mL, 0.04 g | CN1CCC(CC1)N | C6H14N2
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.34 mmol, 0.11 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-1,4,5,6-tetrahydro-pyrrolo[3,4-c]pyrazol-3-yl]-N′-(1-methyl-piperidin-4-yl)-terephthalamide | 0.07 g, yield 55% | ClC1=C(C(=CC=C1)Cl)NC(=O)N1C(C=2NN=C(C2C1)NC(C1=CC=C(C(=O)NC2CCN(CC2)C)C=C1)=O)(C)C | C28H31Cl2N7O3
